US07767680B2
A mixture of ethyl 3-(2-fluorophenyl)-3-oxopropanoate (14.29 g, 68.0 mmol) and DMF-DMA (12.15 g, 0.102 mol, 1.5 eq.) in toluene (50 mL) was refluxed for 2 hours and concentrated to give 3-dimethylamino-2-(2-fluoro-benzoyl)-acrylic acid ethyl ester as a red oil in quantitative yield.

reactant | ethyl 3-(2-fluorophenyl)-3-oxopropanoate | 68.0 mmol, 14.29 g | FC1=C(C=CC=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | DMF-DMA | 0.102 mol, 12.15 g, 1.5 eq. | CN(C)C(OC)OC | C5H13NO2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-dimethylamino-2-(2-fluoro-benzoyl)-acrylic acid ethyl ester | quantitative yield | C(C)OC(C(=CN(C)C)C(C1=C(C=CC=C1)F)=O)=O | C14H16FNO3
